US09371320B2
D) 4-methoxy-1-(tetrahydro-2H-pyran-3-yl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one
A solution of 4-iodo-2-methoxy-N′-(tetrahydro-2H-pyran-3-yl)nicotinohydrazide (484 mg), L-proline (29.5 mg), potassium carbonate (355 mg) and copper(I) iodide (24.4 mg) in DMSO (25 mL) was stirred under nitrogen atmosphere at room temperature for 3 hr. The reaction mixture was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (100 mg).

reactant | 4-iodo-2-methoxy-N′-(tetrahydro-2H-pyran-3-yl)nicotinohydrazide | 484 mg | IC1=CC=NC(=C1C(=O)NNC1COCCC1)OC | C12H16IN3O3
reactant | L-proline | 29.5 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 355 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 24.4 mg | [Cu]I
product | 4-methoxy-1-(tetrahydro-2H-pyran-3-yl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one | 100 mg | COC1=NC=CC2=C1C(NN2C2COCCC2)=O | C12H15N3O3
